US04689346
15 g (0.04 mole) of pyridine N-acetyl-1-aminonaphthalene-4-sulphonate is dissolved in the minimum amount of water in an Erlenmeyer flask. This solution is conveniently cooled and is acidified with concentrated hydrochloric acid, following which the precipitate formed is collected in a filter to give N-acetyl-1-amino-4-naphthalenesulphonic acid, which is then filtered, washed and dried, and suspended in water. An aqueous solution of the stoichiometric amount of tranexamic acid (AMCHA) is then added, and the mixture is stirred for 15 minutes at ambient temperature and evaporated to dryness. The residue obtained is recrystallized in absolute alcohol, 14.1 g (Yield 76.6%) of AMCHA N-acetyl-1-aminonaphthalene-4-sulphonate finally being obtained, whose m.p. is 214°-215° C. and whose IR spectrum (KBr) has the following bands: 1,670; 1,650; 1,530; 1,510; 1,370; 1,320; 1,200; 1,040; 750; 670; 640.

reactant | pyridine N-acetyl-1-aminonaphthalene-4-sulphonate | 0.04 mole, 15 g | C(C)(=O)NC1=CC=C(C2=CC=CC=C12)S(=O)(=O)O.N1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | N-acetyl-1-amino-4-naphthalenesulphonic acid | C(C)(=O)NC1=CC=C(C2=CC=CC=C12)S(=O)(=O)O | C12H11NO4S
